US07846929B2
3-(2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)benzenamine (50 mg) was reacted with Boc-glycine via General Procedure I to give tert-butyl(3-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)phenylcarbamoyl)methylcarbamate. 70 mg of the crude tert-butyl (3-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)phenylcarbamoyl)methylcarbamate was coupled to 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole 7 via General Procedure A to yield tert-butyl(3-(2-(1H-indazol-4-yl)-4-morpholinothieno[3,2-d]pyrimidin-6-yl)phenylcarbamoyl)methylcarbamate.

reactant | 3-(2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)benzenamine | 50 mg | ClC=1N=C(C2=C(N1)C=C(S2)C=2C=C(C=CC2)N)N2CCOCC2 | C16H15ClN4OS
reactant | Boc-glycine | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
product | tert-butyl(3-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)phenylcarbamoyl)methylcarbamate | C(C)(C)(C)OC(NCC(NC1=CC(=CC=C1)C1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl)=O)=O | C23H26ClN5O4S
